US04359420
1.50 g of ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate are stirred at 50° C. for 20 hours together with 100 g of powdered potassium cyanide in 10 ml of methanol. The solution is concentrated and the residue is taken up in chloroform. The insoluble material is filtered off under suction and the filtrate is evaporated. After recrystallisation of the residue from chloroform/hexane, there is obtained methyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate of melting point 192°-193° C.

reactant | ethyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate | 1.50 g | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)OCC)C=CS2 | C15H15N3O3S
reactant | potassium cyanide | 100 g | [C-]#N.[K+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl (S)-10,11,12,12a-tetrahydro-8-oxo-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepine-1-carboxylate | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C(=O)OC)C=CS2 | C14H13N3O3S
